US05122523
650 mg of ethyl 2-ethylthiomethyl-4-methylpentanoate was dissolved in 6 ml of an ethanol/water (10/1) solution, 8.9 ml of an ethanol/water (10/1) solution of 2N potassium hydroxide was added thereto. The solution was stirred at room temperature for 2.5 hours, and then, the reaction solution was distilled off under reduced pressure to obtain a suspension. To this suspension, 40 ml of water was added, and the reaction solution was adjusted to pH2 with 2N hydrochloric acid under cooling with ice, and extracted with ethyl acetate. The ethyl acetate layer was washed with water and then with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. Then, the solvent was distilled off to obtain 577 mg of 2-ethylthiomethyl-4-methylpentanoic acid as colorless oily substance.

reactant | ethyl 2-ethylthiomethyl-4-methylpentanoate | 650 mg | C(C)SCC(C(=O)OCC)CC(C)C | C11H22O2S
reactant | water | 40 ml | O | H2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate ethanol | 6 ml | C(C)(=O)OCC.C(C)O
solvent | ethyl acetate ethanol | 8.9 ml | C(C)(=O)OCC.C(C)O
solvent | potassium hydroxide | 2N | [OH-].[K+]
product | 2-ethylthiomethyl-4-methylpentanoic acid | 577 mg | C(C)SCC(C(=O)O)CC(C)C | C9H18O2S
